US08729081B2
To a solution of 2-(3-(azepan-1-yl)propyl)isoindoline-1,3-dione (3.5 g) in Ethanol (20 mL) was added hydrazine (0.58 mL). The reaction mixture was reflux for 13 h and then cooled down to room temperature. TFA (2.0 mL) was added, the resulted white solid was filtered and the solvent was evaporated to give 3-(azepan-1-yl)propan-1-amine, used without further purification.

reactant | 2-(3-(azepan-1-yl)propyl)isoindoline-1,3-dione | 3.5 g | N1(CCCCCC1)CCCN1C(C2=CC=CC=C2C1=O)=O | C17H22N2O2
reactant | hydrazine | 0.58 mL | NN | H4N2
reactant | TFA | 2.0 mL | C(=O)(C(F)(F)F)O | C2HF3O2
solvent | Ethanol | 20 mL | C(C)O | C2H6O
product | 3-(azepan-1-yl)propan-1-amine | N1(CCCCCC1)CCCN | C9H20N2
